US07625948B2
d) 2-(2-Benzyloxyethyl)-2-phenylmalonic acid diethyl ester
Sodium hydride (406 mg) was dissolved in dimethylformamide (20 mL) and the solution was cooled to 0° C. To this solution was added phenylmalonic acid diethyl ester (2.0 g), and the mixture was stirred at room temperature for 30 minutes. Bromoethyl benzyl ether (2.0 g) was further added thereto, stirred at 60° C. for 4 hours, and water was added thereto. The reaction mixture was concentrated, diluted with ethyl acetate, washed with water, dried over sodium sulfate and purified by column chromatography on silica gel with ethyl acetate:hexane=1:9 to give the title compound (1.2 g).

reactant | Sodium hydride | 406 mg | [H-].[Na+]
reactant | phenylmalonic acid diethyl ester | 2.0 g | C(C)OC(C(C(=O)OCC)C1=CC=CC=C1)=O | C13H16O4
reactant | Bromoethyl benzyl ether | 2.0 g | C(C1=CC=CC=C1)OCCBr | C9H11BrO
reactant | water | O | H2O
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 2-(2-Benzyloxyethyl)-2-phenylmalonic acid diethyl ester | 1.2 g | C(C)OC(C(C(=O)OCC)(C1=CC=CC=C1)CCOCC1=CC=CC=C1)=O | C22H26O5
